US04267176
Bis(trimethylsilyl)acetamide (1.61 g.) was added to a stirred suspension of 2-(6-aminopyridin-2-yl)-2-methoxyiminoacetic acid hydrochloride (410 mg.) in ethyl acetate (5 ml.) all at once, and stirred at 40° C. for 50 minutes. Trifluoroacetic anhydride (1.3 g.) was dropped into the solution at -10° to -5° C. over 30 minutes, and then the solution was stirred at the same temperature for 3 hours. Ethyl acetate (10 ml.) and water (3 ml.) were added to the resultant solution. The solution was washed with water and a saturated aqueous solution of sodium bicarbonate in turn, dried over magnesium sulfate, and concentrated under reduced pressure to give 2-(6-trifluoroacetamidopyridin-2-yl)-2-methoxyiminoacetic acid (470 mg.), mp 194° to 195° C.

reactant | Bis(trimethylsilyl)acetamide | 1.61 g | C[Si](C)(C)C(C(=O)N)[Si](C)(C)C | C8H21NOSi2
reactant | 2-(6-aminopyridin-2-yl)-2-methoxyiminoacetic acid hydrochloride | 410 mg | Cl.NC1=CC=CC(=N1)C(C(=O)O)=NOC
reactant | Trifluoroacetic anhydride | 1.3 g | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | water | 3 ml | O | H2O
solvent | ethyl acetate | 5 ml | C(C)(=O)OCC | C4H8O2
solvent | Ethyl acetate | 10 ml | C(C)(=O)OCC | C4H8O2
product | 2-(6-trifluoroacetamidopyridin-2-yl)-2-methoxyiminoacetic acid | 470 mg | FC(C(=O)NC1=CC=CC(=N1)C(C(=O)O)=NOC)(F)F | C10H8F3N3O4
